2146-02-08 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2146-2-7**] 08:27 PM
 EKG - At [**2146-2-7**] 09:00 PM
   [**2146-2-7**]:
   - Getting 500cc bolus at midnight in attempt to wean pressors
   - Added flagyl for C diff coverage
   - Repleted K
   Allergies:
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-7**] 10:30 PM
   Daptomycin - [**2146-2-7**] 11:00 PM
   Metronidazole - [**2146-2-8**] 12:48 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-8**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 70 (68 - 79) bpm
   BP: 89/30(45) {75/27(38) - 133/95(93)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,817 mL
                                                                    822 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    197 mL
                                                                    822 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      7 mL
   Urine:
   7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,817 mL
                                                                    815 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   above bases, No(t) Wheezes : , Diminished: bases bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, firm RLQ, nontender,
   midline well-healed scar
   Extremities: Right: Trace, Left: Absent, left BKA
   Skin:  Warm, right tunneled HD line, significant stage 4 decubitus
   ulcer on sacrum, bilateral on ischial spines
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   177 K/uL
   8.3 g/dL
   142 mg/dL
   2.6 mg/dL
   29 mEq/L
   2.9 mEq/L
   21 mg/dL
   106 mEq/L
   142 mEq/L
   29.0 %
   19.1 K/uL
        [image002.jpg]
                             [**2146-2-8**]  03:05 AM
   WBC
   19.1
   Hct
   29.0
   Plt
   177
   Cr
   2.6
   Glucose
   142
   Other labs: PT / PTT / INR:16.4/33.3/1.5, Ca++:7.2 mg/dL, Mg++:1.6
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   85 yo female with multiple medical problems admitted for hypotension,
   likely secondary to sepsis.
   # Hypotension - Likely secondary to sepsis.  The patient
s WBC count
   more elevated today at 19, mildly hypothermic, tachycardia masked by
   beta blockade.  Most likely source is urosepsis, (recent VRE and MSSA).
   Other possibilities include ulcers (previously grew MRSA), HD line, or
   endovascular. Low suspicion for pulmonary source based on symptoms
   although possible R infiltrate on CXR and questionable
   infiltrate/effusion of L side.
   - Attempt to continue to wean Levophed, continue to hold hypertensive
   regimen until resolved.
   - Continue broad spectrum antiobiotics with dapto, zosyn and flagyl
   - Follow-up blood, urine cultures; check sputum cx and stool C. Diff
   - Attempt to send cultures from HD line, discuss with renal
   - Renal U/S to r/o abscess
   - Wound care consult, consider X-rays to rule out osteomyelitis, ESR no
   utility in chronic inflammatory states
   - Vascular surgery to evaluate heel ulcer today
   - Trend WBC count, fever curve.
   - No active signs ischemia so maintain Hct>25, however given history if
   develops ischemic symptoms would transfuse for Hct>30
   .
   # ESRD: Pt usually on HD and is run Monday, Wednesday and Friday.
   - Notify renal of pt admission, may require CVVHD today, will discuss
   with renal today
   - Continue phos binders
   - Renally dose medications
   - Renal consulted
   .
   # CAD: s/p NSTEMI ([**4-27**]). No current signs ischemia. Continue medical
   management with statin but hold beta-blocker for now given hypotension
   and continue to hold ASA given multiple recent recurrent LGIB.
   .
   # CHF: Systolic (EF 45%), presumably due to ischemia. Holding
   beta-blocker and lisinopril until hypotension resolves. Low Na diet,
   daily weights, I/Os.
   .
   # LGIB: Unknown source as unable to tolerate colonoscopy, but CT abd
   shows significant diverticuli. Hct at baseline ~28-30, transfuse per
   above criteria.
   -          Active T&S
   -          Daily Hct
   -          Guaiac stools
   .
   # DM: Will continue pt on home regimen of ISS and Lantus.
   .
   # Decubitus Ulcer: Wound Care consult. Notified her vascular surgeon
   [**Last Name (LF) **],[**First Name3 (LF) **] of admission as had been scheduled for routine f/u eval of
   right heel ulcer on [**2146-2-8**].
   .
   # Depression: Continue remeron and celexa.
   .
   # FEN: low Na/cardiac/diabetic diet, replete lytes prn
   # Access: R femoral CVL, PIV, R subclav tunneled HD line
   # PPx: p-boots, PPI, bowel regimen
   # Code:  FULL (confirmed)
   # Dispo:  ICU
   # Comm: [**Name (NI) 115**] [**Name (NI) 5128**] (daughter) [**Telephone/Fax (1) 5129**]
   .
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-2-7**] 08:27 PM
   18 Gauge - [**2146-2-7**] 08:28 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-09 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2146-2-8**] 11:01 AM
   femoral line
 BLOOD CULTURED - At [**2146-2-8**] 11:01 AM
   HD line
 ARTERIAL LINE - START [**2146-2-8**] 12:29 PM
 DIALYSIS CATHETER - START [**2146-2-8**] 12:30 PM
 ULTRASOUND - At [**2146-2-8**] 12:45 PM
   Renal u/s
   -Right art line place, found to be hypertensive to 180s, turned off lev
   and pressure dropped to 88, restarted small dose.
   -Pt c/o armpit pain but no swelling, redness or other evidence for
   thrombosis.  shoulder films showed:
   -Vascular recs:Multipodis boot on RLE, adaptic and dry dressing to heel
   ulcers
   -PICC:IV unwilling to place given WBC of 20, needs neg. Cx
   -C Diff +, started on PO vanc approved by ID
   -Shoulder-spurring of right AC, no fracture or OA
   -Renal US:small b/l kidney, no hydro or stones, small L renal cyst,
   cortical thinning c/w chronic dz, no perinephric fluid collections
   -Per renal: HD possible [**2-9**] if hemodynamically stable
   -Overnight had 10 bts of V tach, lytes obtained, K 3.9
   -This AM unwilling to answer questions, more somnolent-ABG:
   7.26/60/78.  No change on EKG
   - Patient easily arousable, gas repeated and pending.
   Patient complains of back/bottom pain this morning, denies difficulty
   breathing.
   Allergies:
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-7**] 10:30 PM
   Daptomycin - [**2146-2-7**] 11:00 PM
   Metronidazole - [**2146-2-9**] 12:16 AM
   Vancomycin - [**2146-2-9**] 06:56 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-9**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.4
   HR: 69 (64 - 80) bpm
   BP: 87/39(55) {77/33(49) - 137/72(84)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,370 mL
                                                                    263 mL
   PO:
                                                                    260 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,110 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                      7 mL
                                                                      0 mL
   Urine:
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,363 mL
                                                                    263 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.26/60/77.[**Numeric Identifier 143**]/28/-1
   Physical Examination
   General Appearance: No acute distress, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: S1 & s2 regular without murmur
   Respiratory / Chest: Symmetric chest rise with crackles above bases,
   diminished sounds bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, firm RLQ, nontender,
   midline well-healed scar
   Extremities: Right: Trace, Left: Absent, left BKA
   Skin:  Warm, right tunneled HD line, significant stage 4 decubitus
   ulcer on sacrum, bilateral on ischial spines
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   201 K/uL
   8.0 g/dL
   117 mg/dL
   3.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   25 mg/dL
   107 mEq/L
   142 mEq/L
   27.8 %
   13.9 K/uL
        [image002.jpg]
                             [**2146-2-8**]  03:05 AM
                             [**2146-2-8**]  03:09 PM
                             [**2146-2-9**]  02:16 AM
                             [**2146-2-9**]  06:50 AM
   WBC
   19.1
   13.9
   Hct
   29.0
   27.8
   Plt
   177
   201
   Cr
   2.6
   2.8
   3.1
   TCO2
   28
   Glucose
   142
   150
   117
   Other labs: PT / PTT / INR:18.3/39.4/1.7, CK / CKMB / Troponin-T:25//,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %, Mono:4.0 %, Eos:0.0
   %, Albumin:2.1 g/dL, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR: Large pleural effusions L>R, unchanged from [**2-8**]
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2146-2-8**]):
         REPORTED BY PHONE TO SHEEHAM [**2146-2-8**] 3:00PM.
         CLOSTRIDIUM DIFFICILE.
            FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA.
   Assessment and Plan
   85 yo female with multiple medical problems admitted for hypotension,
   likely secondary to sepsis now with known C. Diff.  She was found with
   decreased alertness and hypercapnia this morning which have improved
   (but not resolved).
   # Hypotension
 Secondary to sepsis, likely C. Diff.  WBC count is
   trending down today and patient remains afebrile. Possible other
   sources include urosepsis, (recent VRE and MSSA), posterior ulcer, HD
   line, or endovascular source. Low suspicion for pulmonary source based
   on symptoms although possible R infiltrate on CXR and questionable
   infiltrate/effusion of L side.
   - Attempt to continue to wean Levophed, continue to hold hypertensive
   regimen until resolved.
   - Continue IV flagyl & PO Vancomycin
   - Follow-up blood, urine cultures; check sputum cx
   - Trend WBC count, fever curve.
   - No active signs ischemia so maintain Hct>25, however given history if
   develops ischemic symptoms would transfuse for Hct>30
   # Hypercarbic Respiratory Distress: The patient developed mixed
   respiratory and metabolic acidosis with mental status changes.  During
   pre-rounds her mental status cleared to baseline but hypercarbia only
   improved with decrease oxygenation.
   -          Tolerate hypercarbia if patient comfortable and mentating
   -          Follow ABG with status changes
   -          Clarify code status/intubation status
   # ESRD: Pt usually on HD and is run Monday, Wednesday and Friday.
   - Pending HD today
   - Continue phos binders
   - Renally dose medications
   - Renal consulted
   # CAD: s/p NSTEMI ([**4-27**]). No current signs ischemia. Continue medical
   management with statin but hold beta-blocker for now given hypotension
   and continue to hold ASA given multiple recent recurrent LGIB.
   # CHF: Systolic (EF 45%), presumably due to ischemia. Holding
   beta-blocker and lisinopril until hypotension resolves. Low Na diet,
   daily weights, I/Os.
   # LGIB: Unknown source as unable to tolerate colonoscopy, but CT abd
   shows significant diverticuli. Hct at baseline ~28-30, transfuse per
   above criteria.
   -          Active T&S
   -          Daily Hct
   -          Guaiac stools
   # DM: Will continue pt on home regimen of ISS and Lantus.
   # Decubitus Ulcer: Wound Care consult. Notified her vascular surgeon
   [**Last Name (LF) **],[**First Name3 (LF) **] of admission as had been scheduled for routine f/u eval of
   right heel ulcer on [**2146-2-8**].
   # Depression: Continue remeron and celexa.
   # FEN: low Na/cardiac/diabetic diet, replete lytes prn
   # Access: R femoral CVL, PIV, R subclav tunneled HD line
   # PPx: p-boots, PPI, bowel regimen
   # Code:  FULL (confirmed) Will address intubation again today
   # Dispo:  ICU
   # Comm: [**Name (NI) 115**] [**Name (NI) 5128**] (daughter) [**Telephone/Fax (1) 5129**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-2-7**] 08:27 PM
   18 Gauge - [**2146-2-7**] 08:28 PM
   Arterial Line - [**2146-2-8**] 12:29 PM
   Dialysis Catheter - [**2146-2-8**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-09 11:07:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo women with septicemia due to C. diff.  This morning was
   somnolent, pCO2 was 60.
   24 Hour Events:
   Had 10 beats of VT
   Allergies:
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-7**] 10:30 PM
   Daptomycin - [**2146-2-7**] 11:00 PM
   Vancomycin - [**2146-2-9**] 06:56 AM
   Metronidazole - [**2146-2-9**] 08:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   simvastatin
   sevalemer
   celexa
   remeron
   vanco PO/flagyl
   oxycodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-9**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.5
C (95.9
   HR: 65 (64 - 80) bpm
   BP: 93/39(56) {77/33(49) - 137/72(84)} mmHg
   RR: 11 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,370 mL
                                                                    416 mL
   PO:
                                                                    260 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,110 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                      7 mL
                                                                      0 mL
   Urine:
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,363 mL
                                                                    416 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.30/54/46/28/0
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.0 g/dL
   201 K/uL
   117 mg/dL
   3.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   25 mg/dL
   107 mEq/L
   142 mEq/L
   27.8 %
   13.9 K/uL
        [image002.jpg]
                             [**2146-2-8**]  03:05 AM
                             [**2146-2-8**]  03:09 PM
                             [**2146-2-9**]  02:16 AM
                             [**2146-2-9**]  06:50 AM
                             [**2146-2-9**]  07:29 AM
                             [**2146-2-9**]  08:34 AM
   WBC
   19.1
   13.9
   Hct
   29.0
   27.8
   Plt
   177
   201
   Cr
   2.6
   2.8
   3.1
   TCO2
   28
   28
   28
   Glucose
   142
   150
   117
   Other labs: PT / PTT / INR:18.3/39.4/1.7, CK / CKMB / Troponin-T:25//,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %, Mono:4.0 %, Eos:0.0
   %, Albumin:2.1 g/dL, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Septic shock:  Still on a small amount of levophed, but seems wet by
   exam and CXR
   ESRD:  to get HD today may be challenging given that she is still on
   levophed, but should try HD
   hypoxemia/hypercarbia:  may have chronic respiratory failure, but
   hypoxemia may also be due to fluid overload.  [**Month (only) 51**] have component of
   sleep apnea and obesity hypoventilation.=
   access:  To get PIC and d/c fem line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-2-7**] 08:27 PM
   18 Gauge - [**2146-2-7**] 08:28 PM
   Arterial Line - [**2146-2-8**] 12:29 PM
   Dialysis Catheter - [**2146-2-8**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: will discuss code with her
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-02-10 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Stage IV (osteo) per plastics, may debride, no additional Abx at this
   time
   - Family meeting held, will consider modifying code status, no decision
   at this time
 PICC LINE - START [**2146-2-9**] 12:30 PM
 MULTI LUMEN - STOP [**2146-2-9**] 07:01 PM
   Allergies:
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-7**] 10:30 PM
   Daptomycin - [**2146-2-7**] 11:00 PM
   Vancomycin - [**2146-2-9**] 12:00 PM
   Metronidazole - [**2146-2-9**] 11:41 PM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-10**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.4
C (95.7
   HR: 81 (65 - 81) bpm
   BP: 104/35(57) {86/33(52) - 116/78(86)} mmHg
   RR: 17 (8 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,050 mL
                                                                    155 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    810 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,050 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.30/54/46//0
   Physical Examination
   General Appearance: No acute distress, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: S1 & s2 regular without murmur
   Respiratory / Chest: Symmetric chest rise with crackles above bases,
   diminished sounds bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, firm RLQ, nontender,
   midline well-healed scar
   Extremities: Right: Trace, Left: Absent, left BKA
   Skin:  Warm, right tunneled HD line, significant stage 4 decubitus
   ulcer on sacrum, bilateral on ischial spines
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   228 K/uL
   9.0 g/dL
   43 mg/dL
   3.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   25 mg/dL
   107 mEq/L
   142 mEq/L
   30.9 %
   15.4 K/uL
        [image002.jpg]
                             [**2146-2-8**]  03:05 AM
                             [**2146-2-8**]  03:09 PM
                             [**2146-2-9**]  02:16 AM
                             [**2146-2-9**]  06:50 AM
                             [**2146-2-9**]  07:29 AM
                             [**2146-2-9**]  08:34 AM
                             [**2146-2-10**]  03:51 AM
   WBC
   19.1
   13.9
   15.4
   Hct
   29.0
   27.8
   30.9
   Plt
   177
   201
   228
   Cr
   2.6
   2.8
   3.1
   TCO2
   28
   28
   28
   Glucose
   142
   150
   117
   43
   Other labs: PT / PTT / INR:20.8/46.6/2.0, CK / CKMB / Troponin-T:25//,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %, Mono:4.0 %, Eos:0.0
   %, Albumin:2.1 g/dL, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   85 yo female with multiple medical problems admitted for hypotension,
   likely secondary to sepsis now with known C. Diff.  She was found with
   decreased alertness and hypercapnia this morning which have improved
   (but not resolved).
   # Hypotension
 Secondary to sepsis, likely C. Diff.  WBC count is
   trending down today and patient remains afebrile. Possible other
   sources include urosepsis, (recent VRE and MSSA), posterior ulcer, HD
   line, or endovascular source. Low suspicion for pulmonary source based
   on symptoms although possible R infiltrate on CXR and questionable
   infiltrate/effusion of L side.
   - Attempt to continue to wean Levophed, continue to hold hypertensive
   regimen until resolved.
   - Continue IV flagyl & PO Vancomycin
   - Follow-up blood, urine cultures; check sputum cx
   - Trend WBC count, fever curve-slightly increased WBC and hypothermic,
   concerning for possible continued infection though no other sites
   identified
   - No active signs ischemia so maintain Hct>25, however given history if
   develops ischemic symptoms would transfuse for Hct>30
   -Check arterial line to ensure pressor requirement is accurate
   - If persistently hypotensive, will reinitiate Dapto/Zosyn
   -Check lactate and mixed venous O2 today
   # Hypercarbic Respiratory Distress: The patient developed mixed
   respiratory and metabolic acidosis with mental status changes.  During
   pre-rounds her mental status cleared to baseline but hypercarbia only
   improved with decrease oxygenation.
   -          Tolerate hypercarbia if patient comfortable and mentating
   -          Follow ABG with status changes
   -          Clarify code status/intubation status
   # ESRD: Pt usually on HD and is run Monday, Wednesday and Friday.
   - HD pending pressor requirement, will discuss need for HD with renal,
   as patient may be intravascularly dry but total volume up.
   - Continue phos binders
   - Renally dose medications
   - Renal consulted
   # CAD: s/p NSTEMI ([**4-27**]). No current signs ischemia. Continue medical
   management with statin but hold beta-blocker for now given hypotension
   and continue to hold ASA given multiple recent recurrent LGIB.
   # CHF: Systolic (EF 45%), presumably due to ischemia. Holding
   beta-blocker and lisinopril until hypotension resolves. Low Na diet,
   daily weights, I/Os.
   # LGIB: Unknown source as unable to tolerate colonoscopy, but CT abd
   shows significant diverticuli. Hct at baseline ~28-30, transfuse per
   above criteria.
   -          Active T&S
   -          Daily Hct
   -          Guaiac stools
   -          5 mg PO vitamin K
   # DM: Will continue pt on home regimen of ISS and Lantus.
   # Decubitus Ulcer: Wound Care consult. Notified her vascular surgeon
   [**Last Name (LF) **],[**First Name3 (LF) **] of admission as had been scheduled for routine f/u eval of
   right heel ulcer on [**2146-2-8**].
   # Depression: Continue remeron and celexa.
   # FEN: low Na/cardiac/diabetic diet, replete lytes prn
   # Access: PIV, R subclav tunneled HD line, PICC
   # PPx: p-boots, PPI, bowel regimen
   # Code:  Currently DNR/DNI- will likely progress to no escalation of
   care pending family talk today
   # Dispo:  ICU
   # Comm: [**Name (NI) 115**] [**Name (NI) 5128**] (daughter) [**Telephone/Fax (1) 5129**]
 DEPRESSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-2-7**] 08:28 PM
   Arterial Line - [**2146-2-8**] 12:29 PM
   Dialysis Catheter - [**2146-2-8**] 12:30 PM
   PICC Line - [**2146-2-9**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-10 10:37:00 Physician Attending Progress Note
Chief Complaint: HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo women admitted with septicemia due to C. diff.  Eval by plastics
   yesterday who feels she has Stage IV decube requiring debridement.
   Meeting with family yesterday - she would want be DNR/DNI.
   24 Hour Events:
 PICC LINE - START [**2146-2-9**] 12:30 PM
 MULTI LUMEN - STOP [**2146-2-9**] 07:01 PM
   Allergies:
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-7**] 10:30 PM
   Daptomycin - [**2146-2-7**] 11:00 PM
   Vancomycin - [**2146-2-9**] 12:00 PM
   Metronidazole - [**2146-2-9**] 11:41 PM
   Infusions:
   Other ICU medications:
   Other medications:
   levophed at 0.1mg/kg/min
   remeron
   vanco po
   tylenol
   lipitor
   protonix
   renajel
   nephrocaps
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-10**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.6
C (96.1
   HR: 82 (66 - 82) bpm
   BP: 106/47(66) {86/33(52) - 116/78(86)} mmHg
   RR: 15 (8 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,050 mL
                                                                    215 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    810 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,050 mL
                                                                    215 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   228 K/uL
   43 mg/dL
   3.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   30 mg/dL
   107 mEq/L
   142 mEq/L
   30.9 %
   15.4 K/uL
        [image002.jpg]
                             [**2146-2-8**]  03:05 AM
                             [**2146-2-8**]  03:09 PM
                             [**2146-2-9**]  02:16 AM
                             [**2146-2-9**]  06:50 AM
                             [**2146-2-9**]  07:29 AM
                             [**2146-2-9**]  08:34 AM
                             [**2146-2-10**]  03:51 AM
   WBC
   19.1
   13.9
   15.4
   Hct
   29.0
   27.8
   30.9
   Plt
   177
   201
   228
   Cr
   2.6
   2.8
   3.1
   3.5
   TCO2
   28
   28
   28
   Glucose
   142
   150
   117
   43
   Other labs: PT / PTT / INR:20.8/46.6/2.0, CK / CKMB / Troponin-T:25//,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %, Mono:4.0 %, Eos:0.0
   %, Albumin:2.1 g/dL, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Septic shock:  still on levophed.  Will confirm cuff pressures.  If
   really hypotensive will add back dapto/zosyn to cover sacral decube
   osteomyelitis.
   renal failure:  consider HD and removal of fluid if pressures are
   better than currently measured by a-line.
   coagulopathy:  will give vitamin K
   sacral decube care:  as per plastics.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-2-7**] 08:28 PM
   Arterial Line - [**2146-2-8**] 12:29 PM
   Dialysis Catheter - [**2146-2-8**] 12:30 PM
   PICC Line - [**2146-2-9**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2146-02-11 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2146-2-11**] 01:23 AM
   [**2146-2-10**] Events:
   - Vascular recommended accuzyme to the heel and right ischial spine,
   however not on formulary, will have to obtain from wound care nurse in
   AM
   - Entire family agrees to DNR/DNI status
   - No HD today
   - Pt became unresponsive this AM, got ABG, hypercapnic, acidotic, added
   lactate, likely from uremia and needs HD today.  Had runs of
   ventricular bigeminy likley from uremia as well.
   Allergies:
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-9**] 12:00 PM
   Metronidazole - [**2146-2-10**] 06:23 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-11**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 77 (73 - 95) bpm
   BP: 103/42(61) {95/31(54) - 132/58(82)} mmHg
   RR: 11 (9 - 18) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
    Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                    762 mL
                                                                    128 mL
   PO:
                                                                     20 mL
   TF:
   IVF:
                                                                    742 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                      5 mL
   Urine:
                                                                     10 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    752 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.23/55/168/25/-5
   Physical Examination
   General Appearance: somnolent, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: S1 & s2 regular without murmur
   Respiratory / Chest: Symmetric chest rise with crackles above bases,
   diminished sounds bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, firm RLQ, nontender,
   midline well-healed scar
   Extremities: Right: Trace, Left: Absent, left BKA
   Skin:  Warm, right tunneled HD line, significant stage 4 decubitus
   ulcer on sacrum, bilateral on ischial spines
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   255 K/uL
   9.1 g/dL
   101 mg/dL
   3.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   33 mg/dL
   107 mEq/L
   139 mEq/L
   30.8 %
   17.6 K/uL
        [image002.jpg]
                             [**2146-2-8**]  03:05 AM
                             [**2146-2-8**]  03:09 PM
                             [**2146-2-9**]  02:16 AM
                             [**2146-2-9**]  06:50 AM
                             [**2146-2-9**]  07:29 AM
                             [**2146-2-9**]  08:34 AM
                             [**2146-2-10**]  03:51 AM
                             [**2146-2-11**]  01:08 AM
                             [**2146-2-11**]  01:18 AM
                             [**2146-2-11**]  05:46 AM
   WBC
   19.1
   13.9
   15.4
   17.6
   Hct
   29.0
   27.8
   30.9
   30.8
   Plt
   177
   201
   228
   255
   Cr
   2.6
   2.8
   3.1
   3.5
   3.9
   TCO2
   28
   28
   28
   26
   24
   Glucose
   142
   150
   117
   43
   101
   Other labs: PT / PTT / INR:20.1/43.9/1.9, CK / CKMB / Troponin-T:25//,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.6 mmol/L, Albumin:2.1 g/dL, Ca++:7.7 mg/dL, Mg++:2.1
   mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   85 yo female with multiple medical problems admitted for hypotension,
   likely secondary to sepsis now with known C. Diff.  She was found with
   decreased alertness and hypercapnia
   # Hypotension
 Secondary to sepsis, likely C. Diff.  WBC count is
   trending back up today, the patient remains afebrile, but at times
   hypothermic. Possible other sources include urosepsis, (recent VRE and
   MSSA), posterior ulcer, HD line, or endovascular source. Low suspicion
   for pulmonary source based on symptoms although possible R infiltrate
   on CXR and questionable infiltrate/effusion of L side.
   - Attempt to wean Levophed, continue to hold hypertensive regimen until
   resolved.
   - Continue IV flagyl & PO Vancomycin, add back zosyn and daptomycin as
   the patient continues to be hypotensive with a pressor requirement.
   - Follow-up blood, urine cultures; check sputum cx, no growth to date
   - Trend WBC count, fever curve-slightly increased WBC and hypothermic,
   concerning for possible continued infection though no other sites
   identified
   - No active signs ischemia so maintain Hct>25, however given history if
   develops ischemic symptoms would transfuse for Hct>30
   - lactate and mixed venous O2 yesterday were within normal limits
   # Hypercarbic Respiratory Distress: The patient developed mixed
   respiratory and metabolic acidosis with mental status changes, now on
   two occasions.   The most recent was overnight last night she became
   less responsive and found to have acidosis, hypercarbia.  Seemed to
   clear on its own with arousal, with improvement of her ABG.
   -          Follow ABG with status changes
   -          Pt is DNR/DNI
   -          HD vs CVVH today for volume removal and acidosis treatment
   # ESRD: Pt usually on HD and is run Monday, Wednesday and Friday.
   - Renal function worsening, patient will likely need HD today, but
   continues to require pressors thus may need CVVH
   - Will give 150mEq of Bicarb for acidosis treatment
   - Continue phos binders
   - Renally dose medications
   - Renal on board
   # CAD: s/p NSTEMI ([**4-27**]). No current signs ischemia. Continue medical
   management with statin but hold beta-blocker for now given hypotension
   and continue to hold ASA given multiple recent recurrent LGIB.
   # CHF: Systolic (EF 45%), presumably due to ischemia. Holding
   beta-blocker and lisinopril until hypotension resolves. Low Na diet,
   daily weights, I/Os.
   # LGIB: Unknown source as unable to tolerate colonoscopy, but CT abd
   shows significant diverticuli. Hct at baseline ~28-30, transfuse per
   above criteria.
   -          Active T&S
   -          Daily Hct
   -          Guaiac stools
   -          5 mg PO vitamin K yesterday
   # DM: Will continue pt on home regimen of ISS and Lantus.
   # Decubitus Ulcer: Wound Care consult. Notified her vascular surgeon
   [**Last Name (LF) **],[**First Name3 (LF) **] of admission as had been scheduled for routine f/u eval of
   right heel ulcer on [**2146-2-8**].  Vascular recommended accuzyme to the
   right heel and right ischial spine ulcers.
   # Depression: Continue remeron and celexa.
   # FEN: low Na/cardiac/diabetic diet, replete lytes prn
   # Access: PIV, R subclav tunneled HD line, PICC
   # PPx: p-boots, PPI, bowel regimen
   # Code:  DNR/DNI confirmed, discuss goals of care with the family
   # Dispo:  ICU
   # Comm: [**Name (NI) 115**] [**Name (NI) 5128**] (daughter) [**Telephone/Fax (1) 5129**]
 DEPRESSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Diet as tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-2-7**] 08:28 PM
   Arterial Line - [**2146-2-8**] 12:29 PM
   Dialysis Catheter - [**2146-2-8**] 12:30 PM
   PICC Line - [**2146-2-9**] 12:30 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI confirmed, discuss goals of care with family
   Disposition:  ICU

2146-02-11 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo women with ESRD, PVD, CHF, admitted with C. diff colitis, sepsis
   Overnight patient became more unresponsive.  7.19/66/76  She woke up
   for a while again, then worsened.
   24 Hour Events:
 EEG - At [**2146-2-11**] 01:23 AM
   Allergies:
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-9**] 12:00 PM
   Metronidazole - [**2146-2-11**] 06:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Remeron
   celexa
   vanco po
   tylenol
   simvastatin
   protonix
   nephrocaps
   vitamin E
   vitamin C
   flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-11**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 80 (73 - 95) bpm
   BP: 108/38(61) {95/31(54) - 132/58(82)} mmHg
   RR: 13 (9 - 18) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                    762 mL
                                                                    315 mL
   PO:
                                                                     20 mL
   TF:
   IVF:
                                                                    742 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                     15 mL
   Urine:
                                                                     10 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    752 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.23/55/168/25/-5
   Physical Examination
   General Appearance: mild distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l to apices)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   255 K/uL
   101 mg/dL
   3.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   33 mg/dL
   107 mEq/L
   139 mEq/L
   30.8 %
   17.6 K/uL
        [image002.jpg]
                             [**2146-2-8**]  03:05 AM
                             [**2146-2-8**]  03:09 PM
                             [**2146-2-9**]  02:16 AM
                             [**2146-2-9**]  06:50 AM
                             [**2146-2-9**]  07:29 AM
                             [**2146-2-9**]  08:34 AM
                             [**2146-2-10**]  03:51 AM
                             [**2146-2-11**]  01:08 AM
                             [**2146-2-11**]  01:18 AM
                             [**2146-2-11**]  05:46 AM
   WBC
   19.1
   13.9
   15.4
   17.6
   Hct
   29.0
   27.8
   30.9
   30.8
   Plt
   177
   201
   228
   255
   Cr
   2.6
   2.8
   3.1
   3.5
   3.9
   TCO2
   28
   28
   28
   26
   24
   Glucose
   142
   150
   117
   43
   101
   Other labs: PT / PTT / INR:20.1/43.9/1.9, CK / CKMB / Troponin-T:25//,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.6 mmol/L, Albumin:2.1 g/dL, Ca++:7.7 mg/dL, Mg++:2.1
   mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Septicemia:  Known C. diff, but persistent WBC and pressor requirement
   - will add back dapto/zosyn with osteo of sacrum as possible source.
   respiratory distress:  exam c/w pulmonary edema.  Has not had HD in
   some time, will contact renal about options given pressor requirement.
   IV fentanyl for dressing changes
   ESRD
   acute on chronic diastolic heart failure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-8**] 12:29 PM
   Dialysis Catheter - [**2146-2-8**] 12:30 PM
   PICC Line - [**2146-2-9**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2146-02-12 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2146-2-11**] 03:20 PM
   -CVVH started and stopped
   -Art line changed over wire
   -Family mtg-Patient made CMO
   Allergies:
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-9**] 12:00 PM
   Daptomycin - [**2146-2-11**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-11**] 05:00 PM
   Metronidazole - [**2146-2-11**] 06:00 PM
   Infusions:
   Fentanyl - 70 mcg/hour
   Other ICU medications:
   Fentanyl - [**2146-2-11**] 07:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-12**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.1
C (95.1
   HR: 73 (73 - 93) bpm
   BP: 55/31(40) {46/28(35) - 123/55(119)} mmHg
   RR: 7 (7 - 20) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  2,378 mL
                                                                    126 mL
   PO:
             TF:
   IVF:
                                                                  2,378 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,213 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,165 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.15/64/72/25/-7
   Physical Examination
   General Appearance: Sedated on fentanyl
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: S1 & s2 regular without murmur
   Respiratory / Chest: Symmetric chest rise with crackles above bases,
   diminished sounds bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, firm RLQ, nontender,
   midline well-healed scar
   Extremities: Right: Trace, Left: Absent, left BKA
   Skin:  Warm, right tunneled HD line, significant stage 4 decubitus
   ulcer on sacrum, bilateral on ischial spines
   Neurologic: Sedated
   Labs / Radiology
   255 K/uL
   9.1 g/dL
   92 mg/dL
   2.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   26 mg/dL
   105 mEq/L
   139 mEq/L
   30.8 %
   17.6 K/uL
        [image002.jpg]
                             [**2146-2-9**]  02:16 AM
                             [**2146-2-9**]  06:50 AM
                             [**2146-2-9**]  07:29 AM
                             [**2146-2-9**]  08:34 AM
                             [**2146-2-10**]  03:51 AM
                             [**2146-2-11**]  01:08 AM
                             [**2146-2-11**]  01:18 AM
                             [**2146-2-11**]  05:46 AM
                             [**2146-2-11**]  04:43 PM
                             [**2146-2-11**]  04:55 PM
   WBC
   13.9
   15.4
   17.6
   Hct
   27.8
   30.9
   30.8
   Plt
   [**Telephone/Fax (3) 5293**]
   Cr
   3.1
   3.5
   3.9
   2.9
   TCO2
   28
   28
   28
   26
   24
   24
   Glucose
   117
   43
   101
   92
   Other labs: PT / PTT / INR:20.1/43.9/1.9, CK / CKMB / Troponin-T:10//,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.6 mmol/L, Albumin:2.1 g/dL, Ca++:7.5 mg/dL, Mg++:1.8
   mg/dL, PO4:4.1 mg/dL
   Imaging: None
   Microbiology: CX Pending
   Assessment and Plan
   85 yo female with multiple medical problems admitted for hypotension,
   likely secondary to sepsis now with known C. Diff.  She was found with
   decreased alertness and hypercapnia.
   Patient has been made CMO by her family.  She is currently made
   comfortable on a fentanyl drip.
   # Hypotension
 Secondary to sepsis, likely C. Diff.  WBC count is
   trending back up today, the patient remains afebrile, but at times
   hypothermic. Possible other sources include urosepsis, (recent VRE and
   MSSA), posterior ulcer, HD line, or endovascular source. Low suspicion
   for pulmonary source based on symptoms although possible R infiltrate
   on CXR and questionable infiltrate/effusion of L side.
   - Attempt to wean Levophed, continue to hold hypertensive regimen until
   resolved.
   - Continue IV flagyl & PO Vancomycin, add back zosyn and daptomycin as
   the patient continues to be hypotensive with a pressor requirement.
   - Follow-up blood, urine cultures; check sputum cx, no growth to date
   - Trend WBC count, fever curve-slightly increased WBC and hypothermic,
   concerning for possible continued infection though no other sites
   identified
   - No active signs ischemia so maintain Hct>25, however given history if
   develops ischemic symptoms would transfuse for Hct>30
   - lactate and mixed venous O2 yesterday were within normal limits
   # Hypercarbic Respiratory Distress: The patient developed mixed
   respiratory and metabolic acidosis with mental status changes, now on
   two occasions.   The most recent was overnight last night she became
   less responsive and found to have acidosis, hypercarbia.  Seemed to
   clear on its own with arousal, with improvement of her ABG.
   -          Follow ABG with status changes
   -          Pt is DNR/DNI
   -          HD vs CVVH today for volume removal and acidosis treatment
   # ESRD: Pt usually on HD and is run Monday, Wednesday and Friday.
   - Renal function worsening, patient will likely need HD today, but
   continues to require pressors thus may need CVVH
   - Will give 150mEq of Bicarb for acidosis treatment
   - Continue phos binders
   - Renally dose medications
   - Renal on board
   # CAD: s/p NSTEMI ([**4-27**]). No current signs ischemia. Continue medical
   management with statin but hold beta-blocker for now given hypotension
   and continue to hold ASA given multiple recent recurrent LGIB.
   # CHF: Systolic (EF 45%), presumably due to ischemia. Holding
   beta-blocker and lisinopril until hypotension resolves. Low Na diet,
   daily weights, I/Os.
   # LGIB: Unknown source as unable to tolerate colonoscopy, but CT abd
   shows significant diverticuli. Hct at baseline ~28-30, transfuse per
   above criteria.
   -          Active T&S
   -          Daily Hct
   -          Guaiac stools
   -          5 mg PO vitamin K yesterday
   # DM: Will continue pt on home regimen of ISS and Lantus.
   # Decubitus Ulcer: Wound Care consult. Notified her vascular surgeon
   [**Last Name (LF) **],[**First Name3 (LF) **] of admission as had been scheduled for routine f/u eval of
   right heel ulcer on [**2146-2-8**].  Vascular recommended accuzyme to the
   right heel and right ischial spine ulcers.
   # Depression: Continue remeron and celexa.
   # FEN: low Na/cardiac/diabetic diet, replete lytes prn
   # Access: PIV, R subclav tunneled HD line, PICC
   # PPx: p-boots, PPI, bowel regimen
   # Code:  CMO
   # Dispo:  ICU
   # Comm: [**Name (NI) 115**] [**Name (NI) 5128**] (daughter) [**Telephone/Fax (1) 5129**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-8**] 12:29 PM
   Dialysis Catheter - [**2146-2-8**] 12:30 PM
   PICC Line - [**2146-2-9**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: